US05492912
1,4-diisopropyl-2-(4,5-dihydro[1H]imidazol-2-yl)piperazine
Reacting 2-ethoxycarbonylpiperazine with 2,2 aquivalents of isopropyl bromide in the same conditions as for example 21, and treating the obtained product in the same conditions as for example 1, step d, the desired product is obtained.

reactant | 2-ethoxycarbonylpiperazine | C(C)OC(=O)C1NCCNC1 | C7H14N2O2
reactant | isopropyl bromide | C(C)(C)Br | C3H7Br
product | 1,4-diisopropyl-2-(4,5-dihydro[1H]imidazol-2-yl)piperazine | Yield: 35% | C(C)(C)N1C(CN(CC1)C(C)C)C=1NCCN1 | C13H26N4
